US07230098B2
To a solution of 5-bromo-3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-2-ylamine (5.00 g, 13.15 mmol) in DMF (73 mL) and water (1 mL) was added Zn(CN)2 (4.50 g, 26.3 mmol), Pd2(dba)3 (0.602 g, 0.65 mmol), and DPPF (0.86 g, 1.55 mmol). The mixture was degassed and charged with nitrogen for three time, and then stirred under nitrogen at 100° C. for 3 hr. The reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with a solution of sat. NH4Cl-conc. NH4OH-water (4:1:4), then dried over MgSO4. The crude product was purified on a silica gel column eluting with ethyl acetate-hexanes (1:4) to provide 6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-nicotinonitrile as a white solide (4.15 g, 97% yield).

reactant | 5-bromo-3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-2-ylamine | 13.15 mmol, 5.00 g | BrC=1C=C(C(=NC1)N)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C13H10BrCl2FN2O
reactant | DMF | 73 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
catalyst | Zn(CN)2 | 26.3 mmol, 4.50 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.65 mmol, 0.602 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 1.55 mmol, 0.86 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 6-Amino-5-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-nicotinonitrile | 97% yield | NC1=NC=C(C#N)C=C1OC(C)C1=C(C(=CC=C1Cl)F)Cl | C14H10Cl2FN3O
